US07705027B2
5-(2,4-Bis-benzyloxy-5-chlorophenyl)-isoxazole-3-carboxylic acid ethyl ester
Hydroxylamine hydrochloride (0.89 g; 12.8 mmol) was added to a suspension of 4-(2,4-bis-benzyloxy-5-chlorophenyl)-2-hydroxy-4-oxo-but-2-enoic acid ethyl ester (5.00 g; 10.7 mmol) in absolute ethanol (100 ml). The reaction mixture was heated at reflux for four hours then allowed to cool to ambient temperature (during this time the mixture remains heterogeneous but becomes lighter yellow in colour). The mixture was filtered and the filtered solid was washed with water (2×20 ml), ethanol (2×20 ml) and dried in vacuo at 45° C. This affords 5-(2,4-bis-benzyloxy-5-chlorophenyl)-isoxazole-3-carboxylic acid ethyl ester as a fluffy yellow solid, 4.49 g (91%) LCMS: [M+H]+ 466, 464 (37Cl; 35Cl)). 1H NMR (400 MHz, CDCl3) δ 1.42 (t, 3H), 4.42 (q, 2H), 5.13 (s, 2H), 5.14 (s, 2H), 6.62 (s, 1H), 7.01 (s, 1H), 7.35-7.43 (m, 10H), 8.00 (s, 1H).

reactant | Hydroxylamine hydrochloride | 12.8 mmol, 0.89 g | Cl.NO
reactant | 4-(2,4-bis-benzyloxy-5-chlorophenyl)-2-hydroxy-4-oxo-but-2-enoic acid ethyl ester | 10.7 mmol, 5.00 g | C(C)OC(C(=CC(=O)C1=C(C=C(C(=C1)Cl)OCC1=CC=CC=C1)OCC1=CC=CC=C1)O)=O | C26H23ClO6
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 5-(2,4-Bis-benzyloxy-5-chlorophenyl)-isoxazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=NOC(=C1)C1=C(C=C(C(=C1)Cl)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C26H22ClNO5
